US04965269
Preparation of 5-chloro-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole
5-chloro-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole (645 mg, 0.0019 mol) was dissolved in 25 ml CH2Cl2 and mixed with NaHCO3 (323 mg, 0.0038 mol) dissolved in 10 ml H2O. The stirred mixture was cooled to 0° C. and treated with MCPBA (84%, 389 mg, 0.0019 mol) dissolved in 6 ml CH2Cl2. After reacting for 10 min the layers were separated and the aqueous layer extracted with 5 ml CH2Cl2. The organic layers were combined and extracted with 20 ml water containing NaOH (154 mg, 0.0038 mol). The latter aqueous layer was collected (residual CH2Cl2 distilled off on the rotavapor) and treated with two portions of HCOOCH3 (2×118 μl, 0.0038 mol).

reactant | 5-chloro-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]thio]-1H-benzimidazole | 0.0019 mol, 645 mg | ClC1=CC2=C(NC(=N2)SCC2=NC=CC(=C2OC)OC)C=C1 | C15H14ClN3O2S
reactant | NaHCO3 | 0.0038 mol, 323 mg | C(=O)(O)[O-].[Na+]
reactant | MCPBA | 0.0019 mol, 389 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | NaOH | 0.0038 mol, 154 mg | [OH-].[Na+]
reactant | HCOOCH3 | 0.0038 mol, 118 μl | C(=O)OC | C2H4O2
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 ml | O | H2O
solvent | CH2Cl2 | 6 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-2-[[(3,4-dimethoxy-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | ClC1=CC2=C(NC(=N2)S(=O)CC2=NC=CC(=C2OC)OC)C=C1 | C15H14ClN3O3S
